US05023334
Preparation of formic acid [1-(4-pyridinyl)pentylidene]hydrazide, Compound 141
A solution of 14.26 gm (0.0956 mole) of n-butyl 4-pyridyl ketone, 5.70 gm (0.0956 mole) of formylhydrazine, 50 ml of THF, 30 ml of absolute ethanol and 0.1 gm of p-toluenesulfonic acid is refluxed 24 hr. The reaction is chilled to give a white solid which is collected and discarded. The filtrate is concentrated in vacuo to furnish a solid. This material is dissolved in methylene chloride. The methylene chloride solution is washed with saturated sodium bicarbonate solution; then brine. The organic layer is dried over magnesium sulfate and concentrated in vacuo in the presence of excess hexane to yield 5.14 gm (26%) of the title compound having a melting point of 143.4° C.

reactant | n-butyl 4-pyridyl ketone | 0.0956 mole, 14.26 gm | N1=CC=C(C=C1)C(=O)CCCC | C10H13NO
reactant | formylhydrazine | 0.0956 mole, 5.70 gm | C(=O)NN | CH4N2O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | p-toluenesulfonic acid | 0.1 gm | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | formic acid [1-(4-pyridinyl)pentylidene]hydrazide | 5.14 gm, 26% | N1=CC=C(C=C1)C(CCCC)=NNC=O | C11H15N3O
